US07713996B2
A solution of 4-{[1-(5-chloro-2-methoxy-benzenesulfonyl)-1H-indole-6-carbonyl]-amino}-benzoic acid ethyl ester (70 mg, 0.14 mmol) in tetrahydrofuran (1.5 ml) and methanol (0.5 ml) was treated with a 1N solution of LiOH in water (0.5 ml). The mixture was stirred at room temperature for 4 hours, then acidified with 1N HCl (0.5 ml). Methanol and tetrahydrofuran were evaporated and the residual slurry was extracted three times with ethyl acetate. The combined organic phases were dried with Na2SO4 and evaporated, and the residue purified by flash chromatography (dichloromethane/methanol gradient), to yield 4-{[1-(5-chloro-2-methoxy-benzenesulfonyl)-1H-indole-6-carbonyl]-amino}-benzoic acid as a light yellow solid, 17 mg (25%). MS (ISP): m/e=483.0 (M−H); δH (300 MHz; d6-DMSO) 12.77 (1H, bs), 10.60 (1H, s), 8.34 (1H, s), 8.08 (1H, d), 7.91-7.97 (6H, m), 7.75-7.80 (2H, m), 7.23 (1H, d), 6.91 (1H, d), 3.70 (3H, s).

reactant | 4-{[1-(5-chloro-2-methoxy-benzenesulfonyl)-1H-indole-6-carbonyl]-amino}-benzoic acid ethyl ester | 0.14 mmol, 70 mg | C(C)OC(C1=CC=C(C=C1)NC(=O)C1=CC=C2C=CN(C2=C1)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC)=O | C25H21ClN2O6S
reactant | LiOH | [Li+].[OH-]
reactant | HCl | 1N, 0.5 ml | Cl | ClH
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
solvent | methanol | 0.5 ml | CO | CH4O
solvent | water | 0.5 ml | O | H2O
product | 4-{[1-(5-chloro-2-methoxy-benzenesulfonyl)-1H-indole-6-carbonyl]-amino}-benzoic acid | ClC=1C=CC(=C(C1)S(=O)(=O)N1C=CC2=CC=C(C=C12)C(=O)NC1=CC=C(C(=O)O)C=C1)OC | C23H17ClN2O6S
